US05118697
Step B: Preparation of N-[2,6-bis(1-methylethyl)-phenyl]-2-oxo-3-(5-phenoxypentyl)-3-phenyl-cyclohexane carboxamide
The title compound, mp 150°-153° C., was prepared from 2-(5-phenoxypentyl)-2-phenylcyclohexanone (2.50 g, 0.007 mol), 2,6 diisopropylphenyl isocyanate (1.42 g, 0.007 mol), and lithium diisopropylamide (0.007 mol) using the procedure described in Example 1.

reactant | 2-(5-phenoxypentyl)-2-phenylcyclohexanone | 0.007 mol, 2.50 g | O(C1=CC=CC=C1)CCCCCC1(C(CCCC1)=O)C1=CC=CC=C1 | C23H28O2
reactant | 2,6 diisopropylphenyl isocyanate | 0.007 mol, 1.42 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.007 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)-phenyl]-2-oxo-3-(5-phenoxypentyl)-3-phenyl-cyclohexane carboxamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C1C(C(CCC1)(C1=CC=CC=C1)CCCCCOC1=CC=CC=C1)=O | C36H45NO3
